US04367238
A mixture of ethyl 2-cyano-2-[2-methoxy-5-(2-chlorophenoxy)phenyl]propionate (5.5 g) and potassium hydroxide (4.3 g) in water 40 ml and ethanol (80 ml) was treated in a similar manner to that of Example 14-(7) to give oily 2-[2-methoxy-5-(2-chlorophenoxy)phenyl]propionic acid (3.2 g).

reactant | ethyl 2-cyano-2-[2-methoxy-5-(2-chlorophenoxy)phenyl]propionate | 5.5 g | C(#N)C(C(=O)OCC)(C)C1=C(C=CC(=C1)OC1=C(C=CC=C1)Cl)OC | C19H18ClNO4
reactant | potassium hydroxide | 4.3 g | [OH-].[K+]
solvent | water | 40 ml | O | H2O
solvent | ethanol | 80 ml | C(C)O | C2H6O
product | 2-[2-methoxy-5-(2-chlorophenoxy)phenyl]propionic acid | 3.2 g | COC1=C(C=C(C=C1)OC1=C(C=CC=C1)Cl)C(C(=O)O)C | C16H15ClO4
